US07732448B2
0.07 g of sodium hydride (60% oil suspension) was suspended in 2 ml of tetrahydrofuran. 0.5 ml of tetrahydrofuran solution of 0.13 g of 2-pentyn-1-ol was added dropwise at 0° C. therein, and the mixture was stirred for 10 minutes. Into the mixture was added dropwise 0.5 ml of tetrahydrofuran solution of 0.3 g of 4-chloro-6-(3,5-dimethylpiperidino)pyrimidine obtained the Reference Production Example 6, and stirred for 6 hours at room temperature. Into the reaction mixture was added a saturated ammonium chloride aqueous solution, and the mixture was extracted with tert-butyl methyl ether three times. The organic layers were washed with a saturated sodium chloride aqueous solution, dried over anhydrous magnesium sulfate and concentrated. The residue was subjected to silica gel column chromatography to obtain 0.15 g of 4-(3,5-dimethylpiperidino)-6-(2-pentynyloxy)pyrimidine (hereinafter, referred to as Compound (15)). Compound (15) had the cis/trans diastereomer originated two methyls on the pyperidine ring. The ratio of the cis/trans diastereomer was about 8.2/1.

reactant | sodium hydride | 0.07 g | [H-].[Na+]
reactant | 2-pentyn-1-ol | 0.13 g | C(C#CCC)O | C5H8O
reactant | 4-chloro-6-(3,5-dimethylpiperidino)pyrimidine | 0.3 g | ClC1=NC=NC(=C1)N1CC(CC(C1)C)C | C11H16ClN3
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 0.5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 0.5 ml | O1CCCC1 | C4H8O
product | 4-(3,5-dimethylpiperidino)-6-(2-pentynyloxy)pyrimidine | 0.15 g | CC1CN(CC(C1)C)C1=NC=NC(=C1)OCC#CCC | C16H23N3O
